US03956112
7. furfural/H2O/toluene
Referring to the drawings, FIGS. 1 and 2 illustrate a chamber or housing in which hollow fiber membrane is suitably contained so that a solvent C passes only through the hollow fiber while solvent B containing the solute A contacts the outer walls only of the hollow fiber. A flow diagram for a typical extraction process employing the hollow fiber mechanism of the invention is illustrated in FIG. 3. In this flow diagram, an inlet stream 20 is fed to the extraction process, e.g. at a flow rate of 3700 lb/hr containing 0.35% dinitrotoluene (3500 ppm) in water. For example, the stream 20 may comprise a pollution stream from the production of dinitrotoluene and is introduced into the hollow-fiber extracting unit I where the dinitrotoluene in stream 20 is extracted substantially into the organic solvent stream 21 which comprises toluene at a flow rate in this instance of about 75 lb/hr. The input stream 21 is withdrawn from the extracting unit as stream 22 having a flow rate of 86.4 lb/hr. containing dinitrotoluene with a concentration of 15%, and may be further processed as a recovery stream which is sent to toluene nitrator for processing. The aqueous stream 23 resulting from the after extraction, has a flow rate of 3700 lb/hr. containing dinitrotoluene with a concentration of 2.5 ppm and toluene with a concentration of 450 ppm. The trace amount of toluene in stream 23 may be further extracted through a hollow-fiber extracting unit II, or treated by other means. The organic solvent stream 24 in the extractor is an n-alkane with a large number of carbon atoms such as n-decane which has a negligibly small solubility in water. Through hollow-fiber extracting unit II, the toluene in stream 23 is extracted by stream 24 which has a flow rate of about 9.4 lb/hr. After the extraction, stream 25 issuing from extracting unit II has a flow rate of 11.1 lb/hr. with concentration of toluene in the stream of 15%. The organic solvent, n-alkane, in stream 25 is recovered through distillation to provide the stream 24 which is recycled to hollow-fiber extracting unit II. A toluene stream 26 with a flow rate of 1.7 lb/hr. is removed from the distillation tower 28 and combined with a make-up toluene stream 27 with a flow rate of 73.5 lb/hr. to become stream 21. After hollow-fiber extracting unit II, stream 23 becomes aqueous stream 29 which contains dinitrotoluene with a concentration of 2.5 ppm or less and toluene 2.5 ppm. The total amount of organic pollutants in 29 is about 5 ppm and stream 29 may be recycled back for re-use. It is seen that the extraction process employing the hollow fiber solvent extraction mechanism is not only a recovery process, but also a pollution control process. For this extraction process, solute A is dinitrotoluene, liquid B is H2O and liquid C is toluene in hollow-fiber extracting unit I; and A is toluene, B is H2O and C is n-alkane in hollow-fiber extracting unit II.

reactant | dinitrotoluene | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6N2O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
product | furfural H2O toluene | C(C1=CC=CO1)=O.O.C1(=CC=CC=C1)C | InChI=1S/C7H8.C5H4O2.H2O/c1-7-5-3-2-4-6-7;6-4-5-2-1-3-7-5;/h2-6H,1H3;1-4H;1H2
